US05952382
Preparation of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzaldehyde
2.63 g (5.9 mmol) of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzenemethanol and 40 ml of dichloromethane were introduced into a round-bottomed flask and 4.2 g of pyridinium dichromate were added. The reaction mixture was stirred at room temperature for twelve hours, was filtered through silica and the filtrate was evaporated. The solid obtained was recrystallized from heptane and 490 mg (19%) of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzaldehyde were collected, which compound had a melting point of 83°-4° C.

reactant | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzenemethanol | 5.9 mmol, 2.63 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C=C2)CO)OCOCCOC | C31H36O4
reactant | pyridinium dichromate | 4.2 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzaldehyde | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C=O)C=C2)OCOCCOC | C31H34O4
